US06291511B1
Step A: 4-Bromo-2-trifluoromethyl-benzoxazole.
A solution of 2-amino-3-bromophenol (480 mg, 2.6 mmol), polyphosphoric ester (PPE, 3.4 g) and trifluoroacetic acid (0.88 mL, 11.5 mmol) was heated to 100° C. under a nitrogen atmosphere overnight. A reflux condenser was added as was fresh PPE and the reaction heated to 120° C. for 8 hr. The reaction was cooled and diluted with methylene chloride. The solvent was removed by rotoevaporation. The residue was dissolved in fresh methylene chloride and successively washed with 2N sodium hydroxide solution and saturated salt solution. After drying over anhydrous magnesium sulfate and filtering, the solvent was removed by rotoevaporation. The residue was purified by flash column chromatography in silica gel eluted with 15% acetone in hexanes to yield the title compound (110 mg, 16% yield).

reactant | 2-amino-3-bromophenol | 2.6 mmol, 480 mg | NC1=C(C=CC=C1Br)O | C6H6BrNO
reactant | trifluoroacetic acid | 11.5 mmol, 0.88 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-trifluoromethyl-benzoxazole | 110 mg, 16% yield | BrC1=CC=CC2=C1N=C(O2)C(F)(F)F | C8H3BrF3NO
